US07943788B2
1-(Benzothiazol-2-ylmethyl)-5-bromo-2-chlorobenzene
Benzothiazole and 5-bromo-2-chlorobenzaldehyde obtained in Reference Example 16-(1) were treated in a manner similar to Reference Example 100 to give the target compound. APCI-Mass m/Z 338/340 (M+H).

reactant | Benzothiazole | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | 5-bromo-2-chlorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
product | 1-(Benzothiazol-2-ylmethyl)-5-bromo-2-chlorobenzene | S1C(=NC2=C1C=CC=C2)CC2=C(C=CC(=C2)Br)Cl | C14H9BrClNS
